US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-(piperazin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)ethanone dihydrochloride
To a solution of tert-butyl 4-((trans-4-((3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate (50 mg, 0.80 mmol) in THF (5 mL) was added aqueous 1 N HCl (4 mL) and the reaction mixture was heated at 65° C. for 4 h. The reaction mixture was cooled to room temperature and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The residue was dissolved in methanol (5 mL) and HCl (1 M in water, 2.0 mL, 2 mmol) was added. The resultant solution was concentrated to give the desired product (19.9 mg, 41%) as an off-white solid. 1H NMR (500 MHz, MeOD) δ 9.10 (s, 1H), 8.48 (s, 1H), 8.28 (dd, J=8.7, 1.8 Hz, 1H), 7.97 (d, J=8.7 Hz, 1H), 7.73 (s, 2H), 4.57-4.53 (m, 1H), 3.67-3.63 (br s, 4H), 3.63-3.31 (br s, 2H), 3.14-3.10 (br s, 2H), 2.74 (s, 3H), 2.46 (d, J=12.2 Hz, 2H), 2.18 (d, J=12.8 Hz, 2H), 2.08 (br s, 1H), 1.80 (q, J=12.4 Hz, 2H), 1.41-1.34 (m, 2H). ESI MS m/z 527 [C28H32Cl2N4O2+H]+; HPLC>99% (AUC), tR=9.49 min.

reactant | tert-butyl 4-((trans-4-((3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate | 0.80 mmol, 50 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C33H40Cl2N4O4
reactant | HCl | 1 N, 4 mL | Cl | ClH
reactant | HCl | 2 mmol, 1 M, 2.0 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-(piperazin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)ethanone dihydrochloride | 19.9 mg, 41% | Cl.Cl.ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN1CCNCC1 | InChI=1S/C28H32Cl2N4O2.2ClH/c1-17(35)23-15-32-26-7-4-19(20-13-24(29)28(36)25(30)14-20)12-22(26)27(23)33-21-5-2-18(3-6-21)16-34-10-8-31-9-11-34;;/h4,7,12-15,18,21,31,36H,2-3,5-6,8-11,16H2,1H3,(H,32,33);2*1H/t18-,21-;;
